US09371332B2
4-chloro-3-(3,6-dihydro-2H-pyran-4-yl)-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine (Compound Is)
Compound Is was synthesized according to Example 1, using 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane instead of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 4-chloro-3-iodo-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine instead of 4-chloro-3-iodo-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine in Step 8.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | 4-chloro-3-iodo-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)CCN2CCCC2 | C17H17ClIN5
product | 4-chloro-3-(3,6-dihydro-2H-pyran-4-yl)-5-phenyl-1-(2-pyrrolidin-1-ylethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C=2CCOCC2)CCN2CCCC2 | C22H24ClN5O
